.subckt sky130_asc_cap_mim_m3_1 Cin Cout VPWR VGND
X0 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X1 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X2 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X3 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X4 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X5 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X6 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X7 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X8 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X9 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X10 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X11 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X12 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X13 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X14 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X15 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X16 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X17 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X18 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X19 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
.ends


.subckt sky130_asc_pfet_01v8_lvt_1 GATE SOURCE DRAIN VGND VPWR
X0 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=1.8705e+12p pd=1.348e+07u as=1.8705e+12p ps=1.348e+07u w=6.45e+06u l=2e+06u
.ends


.subckt sky130_asc_pfet_01v8_lvt_60 GATE SOURCE DRAIN VGND VPWR
X0 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=5.79855e+13p pd=4.1788e+08u as=5.6115e+13p ps=4.044e+08u w=6.45e+06u l=2e+06u
X1 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X2 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X3 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X4 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X5 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X6 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X7 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X8 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X9 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X10 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X11 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X12 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X13 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X14 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X15 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X16 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X17 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X18 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X19 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X20 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X21 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X22 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X23 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X24 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X25 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X26 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X27 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X28 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X29 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X30 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X31 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X32 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X33 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X34 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X35 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X36 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X37 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X38 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X39 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X40 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X41 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X42 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X43 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X44 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X45 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X46 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X47 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X48 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X49 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X50 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X51 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X52 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X53 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X54 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X55 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X56 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X57 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X58 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X59 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
.ends


.subckt sky130_asc_res_xhigh_po_2p85_1 Rin Rout VPWR VGND
X0 Rin a_2148_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=7.88e+06u
X1 Rout a_2148_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=7.88e+06u
.ends


.subckt sky130_asc_pfet_01v8_lvt_12 GATE SOURCE DRAIN VGND VPWR
X0 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=1.1223e+13p pd=8.088e+07u as=1.30935e+13p ps=9.436e+07u w=6.45e+06u l=2e+06u
X1 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X2 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X3 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X4 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X5 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X6 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X7 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X8 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X9 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X10 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X11 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
.ends


.subckt sky130_asc_res_xhigh_po_2p85_2 Rin Rout VPWR VGND
X0 Rout a_2723_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=1.075e+07u
X1 Rin a_2723_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=1.075e+07u
.ends


.subckt sky130_asc_pnp_05v5_W3p40L3p40_7 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X1 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X2 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X3 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X4 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X5 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X6 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends


.subckt sky130_asc_nfet_01v8_lvt_1 GATE SOURCE DRAIN VPWR VGND
X0 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=1.16e+12p pd=8.58e+06u as=1.16e+12p ps=8.58e+06u w=4e+06u l=2e+06u
.ends


.subckt sky130_asc_pnp_05v5_W3p40L3p40_1 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends


.subckt sky130_asc_pfet_01v8_lvt_9 GATE SOURCE DRAIN VGND VPWR
X0 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=9.3525e+12p pd=6.74e+07u as=9.3525e+12p ps=6.74e+07u w=6.45e+06u l=2e+06u
X1 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X2 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X3 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X4 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X5 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X6 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X7 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X8 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
.ends


.subckt sky130_asc_pfet_01v8_lvt_6 GATE SOURCE DRAIN VGND VPWR
X0 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=5.6115e+12p pd=4.044e+07u as=7.482e+12p ps=5.392e+07u w=6.45e+06u l=2e+06u
X1 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X2 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X3 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X4 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X5 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
.ends


.subckt sky130_asc_pnp_05v5_W3p40L3p40_8 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
X1 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
X2 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
X3 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
X4 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
X5 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
X6 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
X7 Collector Base Emitter VGND sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends


